US03940394
To a stirred solution of 8.4 g of sodium bicarbonate in 450 ml. of water and 100 ml. of ethanol was added 20.4 g of 6-phenyl-2-thiouracil. The mixture was heated on a hot plate until a clear solution was obtained then 16.7 g of ethyl bromoacetate was added. A precipitate was deposited which was removed by filtration and washed with water. The dried product amounted to 28.1 g, mp. 214°-218°C. decomp. The analytical sample of (4-hydroxy-6-phenyl-2-pyrimidinylthio)acetic acid ethyl ester was obtained by recrystallization from dimethyl formamide, mp. 217°-219°C.

reactant | sodium bicarbonate | 8.4 g | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
reactant | 6-phenyl-2-thiouracil | 20.4 g | C1(=CC=CC=C1)C1=CC(NC(N1)=S)=O | C10H8N2OS
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | (4-hydroxy-6-phenyl-2-pyrimidinylthio)acetic acid ethyl ester | C(C)OC(CSC1=NC(=CC(=N1)O)C1=CC=CC=C1)=O | C14H14N2O3S
